US05071994
Synthesis of 4-chloromethyl-5-phenyl-2-{4-(3-dodecyloxypropylcarbamoyl)-2-nitrophenyl}-4-isoxazolin-3-one
After adding 90.8 g of dicyclohexylcarbodiimide to a mixture of 150 g (0.400) of 4-chloromethyl-5-phenyl-2-(4-carboxy-2-nitrophenyl)-4-isoxazolin-3-one prepared in the above step and 600 ml of chloroform, the reaction was performed for 30 minutes at room temperature. Then, 97.4 g of 3-dodecyloxypropylamine was added dropwise to the reaction mixture and thereafter, the reaction was further performed for 5 hours. The reaction product was purified by a short column of silica gel and the product was recrystallized from acetonitrile to provide 78.0 g of the desired product with a yield of 33.4%. The melting point thereof was 110° C. to 111° C.

reactant | dicyclohexylcarbodiimide | 90.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-chloromethyl-5-phenyl-2-(4-carboxy-2-nitrophenyl)-4-isoxazolin-3-one | 150 g | ClCC=1C(N(OC1C1=CC=CC=C1)C1=C(C=C(C=C1)C(=O)O)[N+](=O)[O-])=O | C17H11ClN2O6
reactant | 3-dodecyloxypropylamine | 97.4 g | C(CCCCCCCCCCC)OCCCN | C15H33NO
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethyl-5-phenyl-2-{4-(3-dodecyloxypropylcarbamoyl)-2-nitrophenyl}-4-isoxazolin-3-one | 78.0 g, yield of 33.4% | ClCC=1C(N(OC1C1=CC=CC=C1)C1=C(C=C(C=C1)C(NCCCOCCCCCCCCCCCC)=O)[N+](=O)[O-])=O | C32H42ClN3O6
